US06037354
To a solution of 2-fluoro-1-Iodobenzene (11.1 g, 50.0 mmol) in 50 mL THF, cooled to -78° C. under argon, was added n-butyllithium (20.0 mL 2.5M in hexane, 50.0 mmol). The solution was stirred 10 min. at -78° C., and a solution of 1,4-cyclohexanedione mono-ethylene ketal (7.81 g, 50.0 mmol) in 50 mL THF was added slowly. The solution was warmed to r.t. and stirred for 60 min., then poured onto saturated sodium bicarbonate and extracted with ethylacetate. The combined organic layers were washed with saturated sodium chloride, dried with magnesium sulfate, and concentrated in vacuo. The crude solid was crystallized from dichloromethane/hexane to give 8-(2-Fluoro-phenyl)-1,4-dioxa-spiro-[4.5]decan-8-ol (3.8 g, 30%).

reactant | 2-fluoro-1-Iodobenzene | 50.0 mmol, 11.1 g | FC1=C(C=CC=C1)I | C6H4FI
reactant | n-butyllithium | 50.0 mmol, 2.5M, 20.0 mL | C(CCC)[Li]
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 50.0 mmol, 7.81 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-(2-Fluoro-phenyl)-1,4-dioxa-spiro-[4.5]decan-8-ol | 3.8 g, 30% | FC1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C14H17FO3
